US07598391B2
4-[2-(3,3-Dicyclohexyl-ureido)-thiazole-5-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester
2-(3,3-Dicyclohexyl-ureido)-thiazole-5-carboxylic acid (176 mg, 0.50 mmol), piperazine carboxylic acid tert-butyl ester (140 mg, 0.75 mmol), and HBTU (285 mg, 0.75 mmol) were weighed out and added to a 25 mL reaction flask. DMF (5 mL) and DIEA (175 μL, 1.0 mmol) were added. The reaction was stirred under nitrogen at ambient temperature overnight. The reaction was diluted with EtOAc (10 mL) and quenched with saturated aqueous NH4Cl (10 mL). After separation and extraction with EtOAc (2×5 mL) the combined organic portions were dried over MgSO4. Purification with silica gel and 10% EtOAc in CH2Cl2 afforded 187 mg (72%) of the desired compound.

reactant | 2-(3,3-Dicyclohexyl-ureido)-thiazole-5-carboxylic acid | 0.50 mmol, 176 mg | C1(CCCCC1)N(C(NC=1SC(=CN1)C(=O)O)=O)C1CCCCC1 | C17H25N3O3S
reactant | piperazine carboxylic acid tert-butyl ester | 0.75 mmol, 140 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | HBTU | 0.75 mmol, 285 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.0 mmol, 175 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-[2-(3,3-Dicyclohexyl-ureido)-thiazole-5-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | 187 mg, 72% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=CN=C(S1)NC(=O)N(C1CCCCC1)C1CCCCC1 | C26H41N5O4S
